US08604038B2
Step A: 2-Chloro-4-cyclopropylpyrimidine
Nitrogen gas was bubbled through a mixture of 2,4-dichloropyrimidine (1.49 g, 10 mmol), cyclopropaneboronic acid (0.86 g, 10 mmol) and K3PO4 (5.31 g, 25 mmol) in THF (50 ml) for 10 min. Pd(dppf)Cl2 (817 mg, 1 mmol) was added and the mixture heated at 90° C. in a sealed tube overnight. The mixture was cooled and partitioned between water and EtOAc, the organic layer washed with sat. NaCl, dried over MgSO4, filtered and evaporated. The residue purified by MPLC (Biotage Horizon: FLASH 25+M) eluent: 100% Hexanes (90 ml), gradient rising from 100% Hexanes to 20% EtOAc in Hexanes (900 ml), then 20% EtOAc in Hexanes (500 ml) to give 750 mg (48%) as an off-white solid. 1H NMR (CDCl3): 1.18 (m, 4H), 1.99 (m, 1H), 7.09 (d, J5.1 Hz, 1H), 8.36 (d, J5.1 Hz, 1H).

reactant | 2,4-dichloropyrimidine | 10 mmol, 1.49 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | cyclopropaneboronic acid | 10 mmol, 0.86 g | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 25 mmol, 5.31 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 1 mmol, 817 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Chloro-4-cyclopropylpyrimidine | ClC1=NC=CC(=N1)C1CC1 | C7H7ClN2
